US08729300B2
In a 3-L round-bottomed flask was placed valproic acid (144 g, 1 mole) and 40% NaOH aqueous solution (100 g, 1 mole). The resulting solution was then put on a rotavaper, applied vacuum, and heated up slowly (e.g., water bath temperature from room temperature to 95° C.) to remove the water. Upon completion of the water removal, the reaction mixture was allowed to cool down to room temperature to obtain sodium valproate (166 g, 100%).

reactant | valproic acid | 1 mole, 144 g | C(C(CCC)CCC)(=O)O | C8H16O2
reactant | NaOH | 1 mole, 100 g | [OH-].[Na+]
solvent | water | O | H2O
product | sodium valproate | 166 g, 100% | C(C(CCC)CCC)(=O)[O-].[Na+] | InChI=1S/C8H16O2.Na/c1-3-5-7(6-4-2)8(9)10;/h7H,3-6H2,1-2H3,(H,9,10);/q;+1/p-1
